US08008303B2
3-Bromo-4-methoxy-N-(2-methyl-4-morpholin-4-yl-phenyl)-benzamide
A mixture of 3-bromo-4-methoxy-benzoic acid (247 mg), 2-methyl-4-morpholin-4-yl-phenylamine (205 mg), EDAC (410 mg), HOBT (289 mg) and N-methylmorpholine (353 μl) in DMF (5 ml) was stirred at room temperature for 18 h. The mixture was then diluted with water (30 ml) and the resulting solid collected by filtration and dried (464 mg)

reactant | 3-bromo-4-methoxy-benzoic acid | 247 mg | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | 2-methyl-4-morpholin-4-yl-phenylamine | 205 mg | CC1=C(C=CC(=C1)N1CCOCC1)N | C11H16N2O
reactant | EDAC | 410 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 289 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 353 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-Bromo-4-methoxy-N-(2-methyl-4-morpholin-4-yl-phenyl)-benzamide | BrC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCOCC2)C)C=CC1OC | C19H21BrN2O3
